US06492385B2
Step 63e: Preparation of N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-2-(methylamino)-1,3-thiazole-5-carboxamide Hydrochloride.
A flask is charged with tert-butyl 5-{[(3R)-1-azabicyclo[2.2.2]oct-3-ylamino]carbonyl}-1,3-thiazol-2-yl(methyl)carbamate (72 mg, 0.18 mmol) in MeOH (5 mL). To this suspension is added a solution of 4.0N HCl/dioxane (10 mL) and the reaction mixture is stirred at room temperature for 3.5 hours. The solvents are removed in vacuo and the residue crystallized from IPA/ether. Yield 63%. MS (ESI) for C12H18N4OS m/z 267.2 (M+H)+.

reactant | tert-butyl 5-{[(3R)-1-azabicyclo[2.2.2]oct-3-ylamino]carbonyl}-1,3-thiazol-2-yl(methyl)carbamate | 0.18 mmol, 72 mg | N12C[C@@H](C(CC1)CC2)NC(=O)C2=CN=C(S2)N(C(OC(C)(C)C)=O)C | C17H26N4O3S
reactant | HCl dioxane | 4.0N, 10 mL | Cl.O1CCOCC1
solvent | MeOH | 5 mL | CO | CH4O
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-2-(methylamino)-1,3-thiazole-5-carboxamide Hydrochloride | Yield 63% | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C2=CN=C(S2)NC | InChI=1S/C12H18N4OS.ClH/c1-13-12-14-6-10(18-12)11(17)15-9-7-16-4-2-8(9)3-5-16;/h6,8-9H,2-5,7H2,1H3,(H,13,14)(H,15,17);1H/t9-;/m0./s1
